US08729102B2
B) 2-[5-(benzyloxy)pyrimidin-2-yl]-6-(cyclopropylmethoxy)-1,3-benzoxazole
Under an argon atmosphere, a mixture of 2-(5-bromopyrimidin-2-yl)-6-(cyclopropylmethoxy)-1,3-benzoxazole (260 mg), benzyl alcohol (812 mg), cesium carbonate (368 mg), copper(I) iodide (14.3 mg), 1,10-phenanthroline (27.0 mg) and toluene (5 mL) was stirred at 110° C. for 3 days. The precipitate was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a pale-yellow solid (205 mg).

reactant | 2-(5-bromopyrimidin-2-yl)-6-(cyclopropylmethoxy)-1,3-benzoxazole | 260 mg | BrC=1C=NC(=NC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2 | C15H12BrN3O2
reactant | benzyl alcohol | 812 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | cesium carbonate | 368 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 27.0 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | copper(I) iodide | 14.3 mg | [Cu]I
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(benzyloxy)pyrimidin-2-yl]-6-(cyclopropylmethoxy)-1,3-benzoxazole | 205 mg | C(C1=CC=CC=C1)OC=1C=NC(=NC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2 | C22H19N3O3
